US07354932B2
The above N-(4-acetoxy-2,2-difluorobutyl)phthalimide (3.84 g, 12.9 mmol) was dissolved in THF (65 mL) and cooled to −78° C. A solution of DIBAL-H (32.3 mL, 1.0 M in hexanes, 32.3 mmol) was added slowly and the solution allowed to stir 0.5 h. Saturated aqueous NH4Cl solution (15 mL) was then added and the solution was warmed to room temperature. MgSO4 (15 g) and diethyl ether (200 mL) were added, and the mixture was filtered through celite, washing with excess 1:1 Et2O/THF (1 L). The filtrate was then concentrated under reduced pressure and the crude material was purified by column chromatography on silica gel (1:2 EtOAc/hexanes) to give the desired N-(2,2-difluoro-4-hydroxybutyl)phthalimide as a pale yellow solid (1.47 g, 45%). 1H NMR (CDCl3) δ 1.97 (t, OH, J=6.0 Hz), 2.22 (tt, 2H, J=16.5, 6.0 Hz), 3.95 (q, 2H, J=6.0 Hz), 4.19 (t, 2H, J=15 Hz), 7.75 (m, 2H), 7.90 (m, 2H).

reactant | N-(4-acetoxy-2,2-difluorobutyl)phthalimide | 12.9 mmol, 3.84 g | C(C)(=O)OCCC(CN1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C14H13F2NO4
reactant | DIBAL-H | 32.3 mmol, 1.0 M, 32.3 mL | CC(C)C[AlH]CC(C)C
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
reactant | MgSO4 | 15 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | N-(2,2-difluoro-4-hydroxybutyl)phthalimide | 1.47 g, 45% | FC(CN1C(C=2C(C1=O)=CC=CC2)=O)(CCO)F | C12H11F2NO3
